US05155113
Preparation of 2'-deoxy-5-fluoro-3'-O-(4-methoxycarbonylbenzyl)uridine
Pottasium hydroxide (4.30 g) and 1.70 g of 4-methoxycarbonylbenzyl bromide were added to a solution of 3.00 g of 2'-deoxy-5-fluoro-5'-O-trityluridine in 200 ml of dioxane. The mixture was stirred at room temperature for a day. The reaction mixture was concentrated under a reduced pressure. To the concentrate was added 200 ml of ethyl acetate for extraction. The extract was washed with water, dried over magnesium sulfate and concentrated. The concentrate was dissolved in 20 ml of a 80% aqueous solution of acetic acid.

reactant | hydroxide | 4.30 g | [OH-]
reactant | 4-methoxycarbonylbenzyl bromide | 1.70 g | COC(=O)C1=CC=C(CBr)C=C1 | C9H9BrO2
reactant | 2'-deoxy-5-fluoro-5'-O-trityluridine | 3.00 g | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C28H25FN2O5
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2'-deoxy-5-fluoro-3'-O-(4-methoxycarbonylbenzyl)uridine | FC=1C(NC(N([C@H]2C[C@H](OCC3=CC=C(C=C3)C(=O)OC)[C@@H](CO)O2)C1)=O)=O | C18H19FN2O7
